US08124793B2
A mixture of 17.2 g (0.1 mole) of 2-methyl-1,4-napthoquinone and 6 g (0.2 mole) of paraformaldehyde was heated to 60° C. in 50 mL of glacial acetic acid and stirred while dry HCl was bubbled through the solution for about 3 hrs. To the cooled mixture was added 200 mL of water, the solid was filtered and rinsed with 50 mL of water. It was then suspended in 200 mL of CH2Cl2, filtered, rinsed with CH2Cl2, and the filtrate was water washed, dried, and evaporated to leave 20.5 g of crude 2-methyl-3-chloromethyl-1,4-napthoquinone. The crude product was purified by sublimation at about 100° C. and pressure of 0.05 mm to give 12.7 g. Since there had been some splatter during the sublimation, the product was resublimed to give 12.1 g (55% yield), m.p. 102-104° C.

reactant | 2-methyl-1,4-napthoquinone | 0.1 mole, 17.2 g | CC=1C(C2=CC=CC=C2C(C1)=O)=O | C11H8O2
reactant | paraformaldehyde | 0.2 mole, 6 g | C=O | CH2O
reactant | HCl | Cl | ClH
solvent | acetic acid | 50 mL | C(C)(=O)O | C2H4O2
product | 2-methyl-3-chloromethyl-1,4-napthoquinone | 20.5 g, 55% yield | CC=1C(C2=CC=CC=C2C(C1CCl)=O)=O | C12H9ClO2
